US06891066B2
3,4-difluoro-2-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)benzamide, which can be prepared according to the procedure in PCT Publication No. WO 00/41505, and 2-methyl-3-butyn-2-ol were reacted in the presence of CuI and (PhP3)2C]2 by the general procedure of Example 1, Step A, and the mixture stirred at RT for 4 h. The reaction mixture was diluted with 50% Et2O/McOH and filtered through Celite®. The filtrate was concentrated under reduced pressure and further purified by flash chromatography on silica (CH2Cl2—10% MeOH/CH2Cl2 gradient elution) to give 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-butynyl)anilino]-N-(2-hydroxyethoxy)benzamide (97%) as a cream solid; m.p. (CH2Cl2/Hexane) 139-142° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.80 (br s, 1 H), 8.78 (br s, 1 H), 7.46-7.40 (m, 1 H), 7.28-7.19 (m, 2 H), 7.07 (dd, J=8.4, 1.5 Hz, 1 H), 6.79 (ddd, J=8.7, 8.7, 4.7 Hz, 1 H), 5.43 (br s, 1 H), 4.70 (br s, 1 H), 3.86 (t, J=4.7 Hz, 2 H), 3.57 (t, J=4.7 Hz, 2 H), 1.45 (s, 6 H). Anal. Calcd for C20H19F3N2O4: C, 58.8; H, 4.7; N, 6.9. Found C, 58.5; H, 4.8; N, 6.7.

reactant | 3,4-difluoro-2-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)I)F | C15H12F3IN2O3
reactant | 2-methyl-3-butyn-2-ol | CC(C)(C#C)O | C5H8O
solvent | Et2O | CCOCC | C4H10O
catalyst | CuI | [Cu]I
product | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-butynyl)anilino]-N-(2-hydroxyethoxy)benzamide | 97% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CC(C)(C)O)F | C20H19F3N2O4
